US07230011B2
1-(4-Fluorobenzyl)-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole
By a method similar to Preparation 32, using 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol (400 mg, 1.16 mmol), potassium hydride (139 mg of a 35% dispersion oil, 1.21 mmol) and 4-fluorobenzyl bromide (148 μL, 1.21 mmol), and chromatographic purification with a 9:1 mixture of dichloromethane and methanol provided 353 mg (90%) of the desired compound as an orange foam: 1H NMR (dmso-d6): 8.61 (s, 1H), 7.25-7.00 (m, 6H), 6.82 (d, 1H, J=2.0 Hz), 6.54 (dd, 1H, J=8.8, 1.6 Hz), 5.20 (s, 2H), 2.84 (br d, 2H, J=11.6 Hz), 2.62-2.50 (m, 1H), 2.19 (s, 3H), 2.01 (br t, 2H, J=11.0 Hz), 1.85 (br d, 2H, J=13.2 Hz), 1.62 (qd, 2H, J=12.0, 2.4 Hz). MS (APCI): m/e 339.2 (M+1).

reactant | 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol | 1.16 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H32N2OSi
reactant | potassium hydride | [H-].[K+]
reactant | 4-fluorobenzyl bromide | 1.21 mmol, 148 μL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-(4-Fluorobenzyl)-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 353 mg, 90% | FC1=CC=C(CN2C=C(C3=CC(=CC=C23)O)C2CCN(CC2)C)C=C1 | C21H23FN2O
